US08895313B2
4-Chloro-3-nitro-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Amide Coupling section using 2-(4-aminophenyl)-6-methoxybenzothiazole (0.50 g, 1.95 mmol), 4-chloro-3-nitrobenzoyl chloride (0.43 g, 1.95 mmol) and Hunig's base (0.28 g, 2.15 mmol) in dry THF (20 ml) to give the title compound (0.83 g, 97%) as a yellow solid after work-up.

reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 1.95 mmol, 0.50 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | 4-chloro-3-nitrobenzoyl chloride | 1.95 mmol, 0.43 g | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | Hunig's base | 2.15 mmol, 0.28 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Chloro-3-nitro-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.83 g, 97% | ClC1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)[N+](=O)[O-] | C21H14ClN3O4S
